*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.4
* < ILD_dielectric_const = 4.3
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_0 1 2 3 4 REF
C_C1 1 REF 0.91352328744pf
C_C2 1 2 14.559611982397pf
C_C3 1 3 0.0207825029056pf
C_C4 1 4 0.2083175672267pf
C_C5 2 REF 1.1054487388932pf
C_C6 2 3 0.1075964993794pf
C_C7 3 REF 0.4271022137726pf
C_C8 3 4 6.437663208681pf
C_C9 4 REF 0.4270614331054pf
L_L1 3 5 1.3063569096154nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_1 1 2 3 4 REF
C_C1 1 REF 0.7561844526747pf
C_C2 1 2 14.92480548119pf
C_C3 1 3 0.0202197673825pf
C_C4 1 4 0.2101733034906pf
C_C5 2 REF 0.950929978499pf
C_C6 2 3 0.1077774353645pf
C_C7 3 REF 0.4275349041724pf
C_C8 3 4 4.7675278301815pf
C_C9 4 REF 0.4264194263041pf
R_R1 1 2 946.86573301403
L_L1 3 5 1.307719793265nh
R_RL1 5 4 3.2895914302e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_2 1 2 3 4 REF
C_C1 1 REF 0.6350583546499pf
C_C2 1 2 15.314993869206pf
C_C3 1 3 0.0195199434548pf
C_C4 1 4 0.2129193246391pf
C_C5 2 REF 0.8337946996776pf
C_C6 2 3 0.1082233115081pf
C_C7 3 REF 0.4278345870142pf
C_C8 3 4 3.6010741957384pf
C_C9 4 REF 0.4257779003215pf
R_R1 1 2 963.16705451377
L_L1 3 5 1.3088547441501nh
R_RL1 5 4 2.0078818011e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_3 1 2 3 4 REF
C_C1 1 REF 0.5225955966938pf
C_C2 1 2 15.842502710297pf
C_C3 1 3 0.0184493710477pf
C_C4 1 4 0.2174632711017pf
C_C5 2 REF 0.7277409790552pf
C_C6 2 3 0.1090873816089pf
C_C7 3 REF 0.4280935502452pf
C_C8 3 4 2.5971961783935pf
C_C9 4 REF 0.4250298035828pf
L_L1 3 5 1.3100031331146nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_4 1 2 3 4 REF
C_C1 1 REF 0.4270901634124pf
C_C2 1 2 16.524427041002pf
C_C3 1 3 0.0169136833022pf
C_C4 1 4 0.2241430795899pf
C_C5 2 REF 0.6414288186376pf
C_C6 2 3 0.1104538503988pf
C_C7 3 REF 0.4283208990028pf
C_C8 3 4 1.7925664487245pf
C_C9 4 REF 0.4242758609263pf
L_L1 3 5 1.3111501655228nh
R_RL1 5 4 -1.04980445e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_5 1 2 3 4 REF
C_C1 1 REF 0.3611141727198pf
C_C2 1 2 17.270265065873pf
C_C3 1 3 0.0150797293206pf
C_C4 1 4 0.2320594930327pf
C_C5 2 REF 0.5861318234448pf
C_C6 2 3 0.1121468641499pf
C_C7 3 REF 0.4285168729255pf
C_C8 3 4 1.260097812624pf
C_C9 4 REF 0.4237135157233pf
L_L1 3 5 1.3120758363928nh
R_RL1 5 4 -2.463370635e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_6 1 2 3 4 REF
C_C1 1 REF 0.314690471461pf
C_C2 1 2 18.084779344582pf
C_C3 1 3 0.0129379887765pf
C_C4 1 4 0.2410910052108pf
C_C5 2 REF 0.5517336908725pf
C_C6 2 3 0.1141437436166pf
C_C7 3 REF 0.4287147602592pf
C_C8 3 4 0.8953587707957pf
C_C9 4 REF 0.4233512760827pf
L_L1 3 5 1.3128353417443nh
R_RL1 5 4 -3.674203205e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_7 1 2 3 4 REF
C_C1 1 REF 0.2769410321691pf
C_C2 1 2 19.135444980602pf
C_C3 1 3 0.0100136919241pf
C_C4 1 4 0.2530363949423pf
C_C5 2 REF 0.5297802100098pf
C_C6 2 3 0.1168813850449pf
C_C7 3 REF 0.4289615587144pf
C_C8 3 4 0.6043109881023pf
C_C9 4 REF 0.4231644202508pf
L_L1 3 5 1.3135505183885nh
R_RL1 5 4 -4.81249071e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_8 1 2 3 4 REF
C_C1 1 REF 0.2473642754425pf
C_C2 1 2 20.461993609594pf
C_C3 1 4 0.2682989339081pf
C_C4 2 REF 0.5203675262094pf
C_C5 2 3 0.1205290533636pf
C_C6 3 REF 0.4292493281713pf
C_C7 3 4 0.3801814055267pf
C_C8 4 REF 0.4231894251598pf
L_L1 3 5 1.314223979914nh
R_RL1 5 4 -5.807909258e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_9 1 2 3 4 REF
C_C1 1 REF 0.2248015491857pf
C_C2 1 2 22.155104414236pf
C_C3 1 4 0.2878242143831pf
C_C4 2 REF 0.5236874792381pf
C_C5 2 3 0.1254489378988pf
C_C6 3 REF 0.4295461212122pf
C_C7 3 4 0.214964871218pf
C_C8 4 REF 0.4234298865218pf
L_L1 3 5 1.3148200054993nh
R_RL1 5 4 -6.503367661e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_10 1 2 3 4 REF
C_C1 1 REF 0.2068895130226pf
C_C2 1 2 24.301463601428pf
C_C3 1 4 0.3124425165421pf
C_C4 2 REF 0.5385323074395pf
C_C5 2 3 0.1320214324962pf
C_C6 3 REF 0.4297919572891pf
C_C7 3 4 0.0953196683175pf
C_C8 4 REF 0.4238237038538pf
L_L1 1 5 66.409082830243nh
R_RL1 5 2 7.9216175190733
L_L2 3 6 41.262899197831nh
R_RL2 6 REF -674.7393330355
L_L3 3 7 1.3153211249717nh
R_RL3 7 4 -6.812051095e-5
L_L4 4 8 40.016627248157nh
R_RL4 8 REF -674.7035573917
Kn_K1 L_L1 L_L2 -1.0
Kn_K2 L_L1 L_L4 -1.0
Kn_K3 L_L2 L_L3 0.1738538760599
Kn_K4 L_L2 L_L4 0.9839329841018
Kn_K5 L_L3 L_L4 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_11 1 2 3 4 REF
C_C1 1 REF 0.1908710772291pf
C_C2 1 2 27.094602909018pf
C_C3 1 4 0.3441154198222pf
C_C4 2 REF 0.5646668252937pf
C_C5 2 3 0.1410177418805pf
C_C6 3 REF 0.4299146563468pf
C_C7 3 4 0.0112012550804pf
C_C8 4 REF 0.4242948207049pf
L_L1 1 5 42.055694525229nh
R_RL1 5 2 2.8622210535508
L_L2 3 6 1.3157105280173nh
R_RL2 6 4 -6.609553623e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_12 1 2 3 4 REF
C_C1 1 REF 0.173256698163pf
C_C2 1 2 30.787134147365pf
C_C3 1 4 0.3853917045723pf
C_C4 2 REF 0.6016850394294pf
C_C5 2 3 0.1534142572579pf
C_C6 3 REF 0.4298577590363pf
C_C7 4 REF 0.4247664865687pf
L_L1 1 5 26.317055756065nh
R_RL1 5 2 0.2853368565166
L_L2 3 6 1.3156185625576nh
R_RL2 6 4 -5.836922355e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_13 1 2 3 4 REF
C_C1 1 REF 0.1489188297614pf
C_C2 1 2 35.944035231873pf
C_C3 1 4 0.4421823361973pf
C_C4 2 REF 0.6517236802191pf
C_C5 2 3 0.171277747567pf
C_C6 3 REF 0.4295763386496pf
C_C7 4 REF 0.4252065000372pf
L_L1 1 5 16.079264152206nh
R_RL1 5 2 0.1628980033677
L_L2 3 6 1.315288373286nh
R_RL2 6 4 1.3794449103e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_14 1 2 3 4 REF
C_C1 1 REF 0.1099775052534pf
C_C2 1 2 43.518640819788pf
C_C3 1 4 0.5246190659713pf
C_C4 2 REF 0.7195010572278pf
C_C5 2 3 0.1979988821887pf
C_C6 3 REF 0.4290550407709pf
C_C7 4 REF 0.425650477498pf
R_R1 1 2 642.71481272752
L_L1 1 5 9.3043528729335nh
R_RL1 5 2 -0.782034043437
L_L2 3 6 1.3147618928661nh
R_RL2 6 4 -2.595831779e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_15 1 2 3 4 REF
C_C1 1 REF 0.0394610974818pf
C_C2 1 2 55.820717724788pf
C_C3 1 4 0.6575075840441pf
C_C4 2 REF 0.819428932365pf
C_C5 2 3 0.2417315887843pf
C_C6 3 REF 0.4282580551467pf
C_C7 4 REF 0.4262572433663pf
R_R1 1 2 320.23585030143
L_L1 1 5 5.8358796113296nh
R_RL1 5 2 2.2805289833996
L_L2 3 6 1.3138525320018nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_16 1 2 3 4 REF
C_C1 1 2 80.304891959767pf
C_C2 1 4 0.9211815860951pf
C_C3 2 REF 1.0022493938906pf
C_C4 2 3 0.3287992218277pf
C_C5 3 REF 0.4270045169807pf
C_C6 4 REF 0.4275628072625pf
R_R1 1 2 174.89660418298
L_L1 1 5 2.6279228889979nh
R_RL1 5 2 -0.259012139945
L_L2 3 6 1.3120753558974nh
R_RL2 6 4 2.4397214801e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_17 1 2 3 4 REF
C_C1 1 2 143.54661813134pf
C_C2 1 4 1.6021342388312pf
C_C3 2 REF 1.4492239586857pf
C_C4 2 3 0.5530695101861pf
C_C5 3 REF 0.4246870072299pf
C_C6 4 REF 0.4315491331163pf
R_R1 1 2 89.285785727117
L_L1 1 5 1.0017602828489nh
R_RL1 5 2 -0.091557614944
L_L2 1 6 46.067062280377nh
R_RL2 6 3 -0.072357527128
L_L3 1 7 45.341176259322nh
R_RL3 7 4 -0.073051376747
L_L4 2 8 46.165081789036nh
R_RL4 8 3 0.0013091194307
L_L5 2 9 45.442440518491nh
R_RL5 9 4 0.001364965866
L_L6 3 10 1.3076087415057nh
R_RL6 10 4 4.9855788002e-5
Kn_K1 L_L1 L_L2 0.0665176224346
Kn_K2 L_L1 L_L3 0.066807236584
Kn_K3 L_L1 L_L4 -0.080860613188
Kn_K4 L_L1 L_L5 -0.081741471504
Kn_K5 L_L2 L_L3 0.9857259293562
Kn_K6 L_L2 L_L4 0.9891392662112
Kn_K7 L_L2 L_L5 0.9747508647034
Kn_K8 L_L2 L_L6 -0.131002292555
Kn_K9 L_L3 L_L4 0.9748376948924
Kn_K10 L_L3 L_L5 0.9889660220189
Kn_K11 L_L3 L_L6 0.0377746745974
Kn_K12 L_L4 L_L5 0.9857566387259
Kn_K13 L_L4 L_L6 -0.130654331985
Kn_K14 L_L5 L_L6 0.0379430282694
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_18 1 2 3 4 REF
C_C1 1 2 448.96911613684pf
C_C2 1 4 4.8934485924486pf
C_C3 2 REF 3.5590656936145pf
C_C4 2 3 1.6335070936489pf
C_C5 3 REF 0.4164072035122pf
C_C6 4 REF 0.4533411622237pf
R_R1 1 2 28.268545325332
L_L1 1 5 26.303255341574nh
R_RL1 5 REF -0.05390211139
L_L2 1 6 0.2172879159812nh
R_RL2 6 2 -0.017624730868
L_L3 1 7 11.996577223442nh
R_RL3 7 3 -0.010509899462
L_L4 1 8 11.32192205299nh
R_RL4 8 4 -0.011110691561
L_L5 2 9 26.157603797949nh
R_RL5 9 REF -0.074335611197
L_L6 2 10 12.041985208677nh
R_RL6 10 3 -3.505825327e-4
L_L7 2 11 11.371702418892nh
R_RL7 11 4 -2.518883847e-4
L_L8 3 12 38.060175759786nh
R_RL8 12 REF -0.109163427381
L_L9 3 13 1.2862840931405nh
R_RL9 13 4 6.3073934046e-5
L_L10 4 14 37.377100830222nh
R_RL10 14 REF -0.108969507533
Kn_K1 L_L1 L_L2 0.0759069698087
Kn_K2 L_L1 L_L5 0.9958619328113
Kn_K3 L_L1 L_L8 0.8275349447962
Kn_K4 L_L1 L_L10 0.8349281379033
Kn_K5 L_L2 L_L3 0.0532290493703
Kn_K6 L_L2 L_L4 0.0533981884284
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081200082216
Kn_K9 L_L2 L_L7 -0.084949687655
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9452341672582
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9909626286051
Kn_K15 L_L3 L_L7 0.9358050882604
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.249595654704
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9362774288146
Kn_K21 L_L4 L_L7 0.9904275387949
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0801363372874
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8268080580558
Kn_K26 L_L5 L_L10 0.8341243483885
Kn_K27 L_L6 L_L7 0.945450231601
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.248569139275
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0805323630577
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.140731415933
Kn_K35 L_L8 L_L10 0.9829892578623
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_19 1 2 3 4 REF
C_C1 1 REF 16.181373708603pf
C_C2 1 3 8.1542237854138pf
C_C3 2 4 24.679770432917pf
C_C4 3 REF 0.482013533388pf
C_C5 4 REF 0.2497593901988pf
R_R1 1 REF 999.25352506912
R_R2 1 2 -6.890346006009
R_R3 1 4 -640.1727954017
R_R4 2 4 642.24917796226
L_L1 1 5 3.8314781497931nh
R_RL1 5 REF -6.759334789e-3
L_L2 1 6 0.1925178687249nh
R_RL2 6 2 0.0827926767859
L_L3 1 7 2.517493577315nh
R_RL3 7 3 0.0368485274053
L_L4 1 8 1.9604600857017nh
R_RL4 8 4 0.0515882369191
L_L5 2 9 3.9860096769143nh
R_RL5 9 REF 0.0822989661935
L_L6 2 10 2.470509632947nh
R_RL6 10 3 0.0092575221517
L_L7 2 11 1.878522593604nh
R_RL7 11 4 0.0036967157787
L_L8 3 12 6.3415317419247nh
R_RL8 12 REF 0.0325718778821
L_L9 3 13 1.1559519783465nh
R_RL9 13 4 0.0013064306581
L_L10 4 14 5.7919845790652nh
R_RL10 14 REF 0.0482156758725
Kn_K1 L_L1 L_L2 0.0221145840196
Kn_K2 L_L1 L_L5 0.975564055224
Kn_K3 L_L1 L_L8 0.7765407105377
Kn_K4 L_L1 L_L10 0.8133399498982
Kn_K5 L_L2 L_L3 0.1720121410634
Kn_K6 L_L2 L_L4 0.2233712103839
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.105512872452
Kn_K9 L_L2 L_L7 -0.091939965218
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0370472390764
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7476643354763
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9614464732695
Kn_K16 L_L3 L_L7 0.7087297682146
Kn_K17 L_L3 L_L8 0.9579949500265
Kn_K18 L_L3 L_L9 -0.502076161456
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6923856239119
Kn_K22 L_L4 L_L7 0.9500682776883
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1989247515531
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0183213909771
Kn_K27 L_L5 L_L7 0.0132561135592
Kn_K28 L_L5 L_L8 0.7813799349294
Kn_K29 L_L5 L_L10 0.8220252862209
Kn_K30 L_L6 L_L7 0.7411026231023
Kn_K31 L_L6 L_L8 0.9925174551356
Kn_K32 L_L6 L_L9 -0.517169743609
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1913568449892
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3149593661645
Kn_K38 L_L8 L_L10 0.9056600522787
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_20 1 2 3 4 REF
C_C1 1 2 1077.8877937401pf
C_C2 1 4 11.668034634477pf
C_C3 2 REF 7.8822188423494pf
C_C4 2 3 3.858984463601pf
C_C5 3 REF 0.3996717134127pf
C_C6 4 REF 0.4981719932289pf
R_R1 1 2 15.243965542154
L_L1 1 5 6.9041605710543nh
R_RL1 5 REF -0.043543782327
L_L2 1 6 0.0424211828783nh
R_RL2 6 2 -2.548198466e-3
L_L3 1 7 3.8520787590159nh
R_RL3 7 3 -1.108147439e-3
L_L4 1 8 3.2207315196898nh
R_RL4 8 4 -1.419520443e-3
L_L5 2 9 6.8521379370929nh
R_RL5 9 REF -0.045758468119
L_L6 2 10 3.870663312765nh
R_RL6 10 3 -1.063555716e-4
L_L7 2 11 3.2461053876248nh
R_RL7 11 4 -4.568461441e-5
L_L8 3 12 10.69449788893nh
R_RL8 12 REF -0.049015260533
L_L9 3 13 1.2188576182571nh
R_RL9 13 4 3.4037243604e-5
L_L10 4 14 10.056015320104nh
R_RL10 14 REF -0.049029082329
Kn_K1 L_L1 L_L2 0.0872562824283
Kn_K2 L_L1 L_L5 0.9969233644272
Kn_K3 L_L1 L_L8 0.7998876980373
Kn_K4 L_L1 L_L10 0.8244622393096
Kn_K5 L_L2 L_L3 0.0294832854753
Kn_K6 L_L2 L_L4 0.0230598957773
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.075276010578
Kn_K9 L_L2 L_L7 -0.091347212676
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.014928907801
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.8309872676937
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9945098588524
Kn_K16 L_L3 L_L7 0.8243626673035
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.426938926796
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8265758171381
Kn_K22 L_L4 L_L7 0.9934478432263
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1482626634633
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.798794333811
Kn_K27 L_L5 L_L10 0.8229241269485
Kn_K28 L_L6 L_L7 0.8319442401478
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.424349860037
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1493886884874
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2572200227693
Kn_K36 L_L8 L_L10 0.9417072180445
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_21 1 2 3 4 REF
C_C1 1 2 113.51329227533pf
C_C2 1 4 1.2697535853073pf
C_C3 2 REF 1.2369913374115pf
C_C4 2 3 0.4496179916417pf
C_C5 3 REF 0.4228557318504pf
C_C6 4 REF 0.4261027312496pf
R_R1 1 2 102.22274472825
L_L1 1 5 0.2870343938693nh
R_RL1 5 2 -0.022516784743
L_L2 1 6 28.436346910648nh
R_RL2 6 3 9.1633912972e-4
L_L3 1 7 27.696439921644nh
R_RL3 7 4 4.6892017022e-4
L_L4 2 8 28.669820541361nh
R_RL4 8 3 3.9036136401e-4
L_L5 2 9 27.938469745361nh
R_RL5 9 4 4.9982996773e-4
L_L6 3 10 1.3001191672441nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L4 -0.090723119898
Kn_K2 L_L1 L_L5 -0.093413601624
Kn_K3 L_L2 L_L3 0.9769233798502
Kn_K4 L_L2 L_L4 0.9949819865134
Kn_K5 L_L2 L_L5 0.9717325316657
Kn_K6 L_L2 L_L6 -0.167755689254
Kn_K7 L_L3 L_L4 0.9721388943679
Kn_K8 L_L3 L_L5 0.9948501642168
Kn_K9 L_L3 L_L6 0.0466787260684
Kn_K10 L_L4 L_L5 0.9771146108947
Kn_K11 L_L4 L_L6 -0.166370507709
Kn_K12 L_L5 L_L6 0.0471859337817
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_22 1 2 3 4 REF
C_C1 1 REF 0.2066222416825pf
C_C2 1 2 37.742373458396pf
C_C3 1 4 0.4516097610006pf
C_C4 2 REF 0.711989948994pf
C_C5 2 3 0.1805177482078pf
C_C6 3 REF 0.4244456361845pf
C_C7 4 REF 0.4200734051378pf
R_R1 1 2 255.08074507078
L_L1 1 5 0.7979416589607nh
R_RL1 5 2 0.2530155161157
L_L2 1 6 93.882407536411nh
R_RL2 6 3 0.7538694768
L_L3 1 7 92.903906167706nh
R_RL3 7 4 0.7415378513833
L_L4 2 8 95.251561176148nh
R_RL4 8 3 2.0245185500498
L_L5 2 9 94.27912409947nh
R_RL5 9 4 2.0051342461556
L_L6 3 10 1.3070493378371nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 -0.032998153122
Kn_K2 L_L1 L_L3 -0.033523638975
Kn_K3 L_L1 L_L4 -0.124287196926
Kn_K4 L_L1 L_L5 -0.125276117654
Kn_K5 L_L2 L_L3 0.9930160609795
Kn_K6 L_L2 L_L4 0.9958071694893
Kn_K7 L_L2 L_L5 0.9887828200271
Kn_K8 L_L2 L_L6 -0.103162715514
Kn_K9 L_L3 L_L4 0.9889217021774
Kn_K10 L_L3 L_L5 0.9957639793285
Kn_K11 L_L3 L_L6 0.0149075341687
Kn_K12 L_L4 L_L5 0.9931168305614
Kn_K13 L_L4 L_L6 -0.102146848154
Kn_K14 L_L5 L_L6 0.0150715561134
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_23 1 2 3 4 REF
C_C1 1 REF 0.349660656937pf
C_C2 1 2 17.431994000929pf
C_C3 1 3 0.0328183243913pf
C_C4 1 4 0.2322522573858pf
C_C5 2 REF 0.5780292605284pf
C_C6 2 3 0.1066367119445pf
C_C7 3 REF 0.4242229015358pf
C_C8 4 REF 0.4177682586443pf
R_R1 1 2 641.43938144801
L_L1 1 5 1.063240568735nh
R_RL1 5 2 0.2357000823704
L_L2 3 6 1.3071640252842nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_24 1 2 3 4 REF
C_C1 1 REF 0.4123581607264pf
C_C2 1 2 9.7969241495574pf
C_C3 1 3 0.0661692885953pf
C_C4 1 4 0.1505718951483pf
C_C5 2 REF 0.5410291878937pf
C_C6 2 3 0.0769296192644pf
C_C7 3 REF 0.4225434759536pf
C_C8 4 REF 0.415191749512pf
L_L1 1 5 1.628448290451nh
R_RL1 5 2 0.0928153589533
L_L2 3 6 1.3050605584397nh
R_RL2 6 4 -3.265071018e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_25 1 2 3 4 REF
C_C1 1 REF 0.4430475216783pf
C_C2 1 2 6.7293335742991pf
C_C3 1 3 0.085265030559pf
C_C4 1 4 0.1153816536989pf
C_C5 2 REF 0.5318234718987pf
C_C6 2 3 0.0621127027655pf
C_C7 2 4 0.0421282983471pf
C_C8 3 REF 0.4205863886823pf
C_C9 4 REF 0.4126832738896pf
L_L1 1 5 1.8380266887134nh
R_RL1 5 2 -1.17555676e-3
L_L2 3 6 1.3023695116741nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_26 1 2 3 4 REF
C_C1 1 REF 0.4558224077155pf
C_C2 1 2 5.848535437681pf
C_C3 1 3 0.0957575749926pf
C_C4 1 4 0.1026271505121pf
C_C5 2 REF 0.5328566777739pf
C_C6 2 3 0.0547566162714pf
C_C7 2 4 0.0581828255621pf
C_C8 3 REF 0.4192375562459pf
C_C9 4 REF 0.4110409090615pf
L_L1 1 5 1.9296950972376nh
R_RL1 5 2 -0.025100570364
L_L2 3 6 1.301224761061nh
R_RL2 6 4 1.123034663e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param42_26

